US07863310B2
1-(3-(Isobutylamino)-4-nitrophenyl)-2-phenyl-1H-imidazole
Add sodium hydride (60% oil dispersion, 94 mg, 2.36 mmol) to a solution of 2-phenylimidazole (340 mg, 2.36 mmol) in 8 mL dimethylformamide. Stir at room temperature for 15 minutes and then add N-[isobutyl]2-nitro-5-fluoroaniline (500 mg, 2.36 mmol). Stir at 60° C. over night under a nitrogen atmosphere. Dilute the reaction mixture with ethyl acetate and wash with dilute aqueous sodium bicarbonate. Dry the organic phase over sodium sulfate, filter, and concentrate under reduced pressure. Subject the residue to radial silica gel chromatography, eluting with a gradient of 0.1%-5% methanol in dichloromethane to provide the desired compound as a yellow solid (450 mg, 57%).

reactant | sodium hydride | 2.36 mmol, 94 mg | [H-].[Na+]
reactant | 2-phenylimidazole | 2.36 mmol, 340 mg | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | N-[isobutyl]2-nitro-5-fluoroaniline | 2.36 mmol, 500 mg | C(C(C)C)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C10H13FN2O2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-(Isobutylamino)-4-nitrophenyl)-2-phenyl-1H-imidazole | 450 mg, 57% | C(C(C)C)NC=1C=C(C=CC1[N+](=O)[O-])N1C(=NC=C1)C1=CC=CC=C1 | C19H20N4O2
